2133-03-23 06:09:00 Physician Resident Progress Note
Chief Complaint: EtOH intoxication
   24 Hour Events:
   - Received Zofran for a few episodes of emesis at 1300
   - Patient was very anxious throughout the day, repeatedly asking for
   diazepam despite concern by primary team that patient did not require
   it
   - Patient received 40mg Diazepam over past 24 hours
   - @10PM, patient sleeping with bp's in the 160/100's, received
   lisinopril 10mg x 1 with no improvement in his blood pressure, required
   Carvedilol 6.25mg x 1 with improvement in his bp to 130/90's
   Allergies:
   Codeine
   Rash;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-3-22**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-3-23**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 76 (76 - 113) bpm
   BP: 148/93(106) {113/73(76) - 169/118(130)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,040 mL
                                                                     59 mL
   PO:
                                                                    980 mL
             TF:
   IVF:
                                                                  1,060 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    100 mL
   Urine:
                                                                  1,500 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,540 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: Alert, oriented, NAD
   HEENT: Sclera anicteric, PERRL, MMM, oropharynx clear
   Neck: supple, JVD not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-distended, bowel sounds present, mild TTP
   throughout R abdomen, no rebound tenderness or guarding
   Ext: warm, well perfused, 2+ pulses, no edema.  Chronic bilateral foot
   deformities attributed to neuropathy from EtOH abuse.
   Neuro: CN II-XII intact.  Strength 5/5 in all UE and LE groups.  Left
   hand shaking that resolves with purposeful movement.
   Labs / Radiology
   123 K/uL
   15.5 g/dL
   115
   0.9
   24
   3.6
   9
   100
   137
   44.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2133-3-23**]  04:47 AM
   WBC
   4.2
   Hct
   44.2
   Plt
   123
   Other labs: PT / PTT / INR:13.2/24.4/1.1, ALT / AST:51/80, Alk Phos / T
   Bili:97/3.6, Albumin:3.6, LDH:218, Ca++:8.7, Mg++:1.3, PO4:2.6
   Microbiology: Urine culture [**2133-2-22**]: pending
   Assessment and Plan
   61M with history of EtOH abuse and withdrawals, HTN,
   depression/anxiety/agoraphobia, who presented from home after 12 hour
   self detox.
   # EtOH withdrawal:  Intoxicated on admission with EtOH level 311 and
   with a long history of EtOH abuse and withdrawals.  Received 40mg
   Diazepam over the past 24 hours for withdrawal, somewhat, liberally
   dosed as patient very anxious at baseline which may have colored CIWA
   [**Doctor Last Name 93**], but this AM, much more calm. SW met with patient yesterday, he
   is refusing treatment for his alcohol dependence.
   - Folate, MVI, thiamine PO
   - Decrease Valium to 5 mg PO Q2H prn CIWA >10.
   # Hypertension: Patient uncertain of home Lisinopril dose, takes
   Lisinopril & HCTZ at home. Despite receiving both, the patient was
   hypertensive while sleeping overnight to 160
s/100
s despite receiving
   20mg Lisinopril. When awoken, no other signs of withdrawal. BP improved
   with low dose Carvedilol.
   - Lisinopril at 20 mg daily
   - HCTZ 12.5mg PO daily
   - Consider adding third [**Doctor Last Name **] if bp remains elevated
   # ?Seizure:  Patient self-reports an episode of seizure based on
   passing out and waking up with incontinence.  Suspicion was low given
   his high EtOH level on admission and short period of abstaining from
   alcohol at the time.  No witnessed tonic clonic activity and no
   evidence of trauma on exam. A urine tox screen was positive for
   opiates. Over the past 24 hours, the patient had no evidence of seizure
   or true DT.
   - Will continue to observe with CIWA scale in place
# Depression/anxiety/agoraphobia:  Worsened with EtOH use/abuse.  Has seen psych
 in past, but has poor follow-up and is not actively followed by a therapist cur
rently. SW met with patient yesterday and he declined assistance with referrals
to substance abuse programs or services as he has on past admissions.
   - Outpatient SW followup at [**Location (un) 341**] Mental Health
   - Management of EtOH withdrawal and abuse as above.
   # Abdominal pain, N/V:  Improved this AM. Patient report N/V after
   drinking, now resolved. He also has chronic right-sided abdominal pain
   of greater than 10 years duration per OMR notes without apparent cause
   & with a benign clinical exam.  The pain was resolved with 5mg
   Oxycodone yesterday. Normal lipase, slightly elevated, but downtrending
   LFT
   - Oxycodone PO 5mg q6H:PRN
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2133-3-22**] 06:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Patient
   Code status: Full code
   Disposition: call out to the medicine floor today

2133-03-23 09:09:00 Physician Attending Progress Note
Chief Complaint: EtOH withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Calm today
   24 Hour Events:
 EKG - At [**2133-3-22**] 02:47 PM
   Pt c/o feeling "something wrong." Denies all pain, denies CP, denies
   SOB, VSS per flowsheet. Free of s/s diaphoresis or distress. Continues
   w/ dry heaving. Dr. [**Last Name (STitle) 8766**] to bedside to assess pt. EKG obtained - NSR
   w/ no ST abnormalities per Dr. [**Last Name (STitle) 8766**]. No new orders given at this
   time.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Rash;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-3-23**] 07:48 AM
   Omeprazole (Prilosec) - [**2133-3-23**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, HTN
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, depression
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: [**1-17**] Minimal
   Pain location: abdominal
   Flowsheet Data as of  [**2133-3-23**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**35**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 93 (74 - 110) bpm
   BP: 156/94(106) {113/77(85) - 169/118(130)} mmHg
   RR: 16 (16 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,040 mL
                                                                    780 mL
   PO:
                                                                    980 mL
                                                                    700 mL
   TF:
   IVF:
                                                                  1,060 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    350 mL
   Urine:
                                                                  1,500 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,540 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   15.5 g/dL
   123 K/uL
   115 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   9 mg/dL
   100 mEq/L
   137 mEq/L
   44.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2133-3-23**]  04:47 AM
   WBC
   4.2
   Hct
   44.2
   Plt
   123
   Cr
   0.9
   Glucose
   115
   Other labs: PT / PTT / INR:13.2/24.4/1.1, ALT / AST:51/80, Alk Phos / T
   Bili:97/3.6, Albumin:3.7 g/dL, LDH:218 IU/L, Ca++:8.7 mg/dL, Mg++:1.3
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 HYPOMAGNESEMIA (LOW MAGNESEIUM)
 HEPATITIS, CHRONIC VIRAL
 DEPRESSION
 ANXIETY
   Much less agitated. HR and BP down. No longer [**Doctor Last Name 93**] on CIWA. No
   evidence of active withdrawal.  Refusing alcohol intervention.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2133-3-22**] 06:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 40 minutes